US07910592B2
(4S,5R)-5-[3,5-Bis(trifluoromethyl)phenyl]-3-{[2-ethyl-6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one
Following the procedure described for EXAMPLE 92, (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[2-ethyl-6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-4-methyl-1,3-oxazolidin-2-one was synthesized from (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one and acetaldehyde. LCMS calc.=639.2; found 638.9 (M+H)+.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C=C2CNCC2=CC1C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C31H29F7N2O3
reactant | acetaldehyde | C(C)=O | C2H4O
product | (4S,5R)-5-[3,5-Bis(trifluoromethyl)phenyl]-3-{[2-ethyl-6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C=C2CN(CC2=CC1C1=C(C=C(C(=C1)C(C)C)F)OC)CC)C)(F)F | C33H33F7N2O3
